US05110966
Step a: 1-Trimethylsilyl-l-decyn-3-ol
Dissolve B-(2-(trimethylsilyl)ethynyl)-9-borabicyclo[3.3.1]nonane.tetrahydrofuran complex (2.4 g, 8.3 mmol) in pentane (25 mL) and add octylaldehyde (1.3 mL, 8.3 mmol). Stir at room temperature for 40 minutes and evaporate the solvent under a positive pressure of nitrogen to give a yellow solid. Add ethyl ether (30 mL) and methanol (336 μL, 8.3 mmol), cool to 0° C. and add, by dropwise addition, ethanolamine (0.5 mL, 8.3 mmol). Stir overnight, centrifuge the reaction mixture and separate the clear supernatant liquid. Wash the precipitate with pentane (2×10 mL) and combine the organic phases. Wash with water (2×25 mL) and dry (MgSO4). Evaporate the solvent in vacuo and purify by silica gel chromatography (19:1 hexane/ethyl acetate) to give the title compound as a clear liquid (1.71 g, 91%).

reactant | B-(2-(trimethylsilyl)ethynyl)-9-borabicyclo[3.3.1]nonane | C[Si](C#CB1C2CCCC1CCC2)(C)C | C13H23BSi
reactant | ethyl ether | 30 mL | C(C)OCC | C4H10O
reactant | methanol | 8.3 mmol, 336 μL | CO | CH4O
reactant | ethanolamine | 8.3 mmol, 0.5 mL | C(O)CN | C2H7NO
reactant | pentane | 25 mL | CCCCC | C5H12
product | 1-Trimethylsilyl-l-decyn-3-ol | 1.71 g, 91% | C[Si](C#CC(CCCCCCC)O)(C)C | C13H26OSi
